US06750228B1
Ninety-five percent dry sodium hydride is weighted in a 25 mL vial. Boc-(4-hydroxy)-piperidine (1 g, 4.97 mmol) in 10 mL of dimethyl formamide is added and the reaction mixture is stirred at room temperature for 15 minutes 4-fluoro benzyl bromide (1.4 g, 7.5 mmol) is added and the reaction mixture is stirred at room temperature for 16 hours, then quenched with water and diluted with ethyl acetate. The organic layer was washed with brine, then dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate:hexane 1:10. The Boc-protected amine is dissolved in 3 mL of dichloromethane and 3 mL of trifluoroacetic acid and the reaction mixture is stirred at room temperature for 16 hours and the solvent is evaporated to give 1.8 g of 4-(4-fluorophenyl)-methoxy piperidine. MS: M+H=210.1319.

reactant | sodium hydride | [H-].[Na+]
reactant | Boc-(4-hydroxy)-piperidine | 4.97 mmol, 1 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | 4-fluoro benzyl bromide | 7.5 mmol, 1.4 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-(4-fluorophenyl)-methoxy piperidine | 1.8 g | FC1=CC=C(C=C1)C1CCN(CC1)OC | C12H16FNO
